US06551682B1
Then, a reaction flask was loaded with this 3-methoxy-2-nitropyridine (9.0 g), sodium sulfide enneahydrate (64 g), ethanol (93 ml) and water (46 ml) and they were mixed, followed by stirring at 70° C. for 2.5 hours. Then, the mixture was cooled to room temperature. To this, toluene and water were added, followed by stirring. The organic layer was collected and washed with a saline solution, and then dried with sodium sulfate. This was filtrated and the filtrate was condensed to give 2-amino-3-methoxypyridine (5.1 g).

reactant | 3-methoxy-2-nitropyridine | 9.0 g | COC=1C(=NC=CC1)[N+](=O)[O-] | C6H6N2O3
reactant | sodium sulfide enneahydrate | 64 g | O.O.O.O.O.O.O.O.O.[Na+].[Na+].[SH-]
reactant | ethanol | 93 ml | C(C)O | C2H6O
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | 46 ml | O | H2O
product | 2-amino-3-methoxypyridine | 5.1 g | NC1=NC=CC=C1OC | C6H8N2O
